US09029360B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-methyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone
0.72 g (2.23 mmol) TBTU was added to 0.40 g (2.03 mmol) 6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid, 0.41 g (2.03 mmol) 2-Methyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine hydrochloride and 0.88 mL (6.28 mmol) TEA in 8.0 mL DMF and stirred at RT overnight. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 0.18 g (25% of theory). ESI-MS: m/z=348 (M+H)+; Rt(HPLC): 1.01 min. (Method J).

reactant | TBTU | 2.23 mmol, 0.72 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 2.03 mmol, 0.40 g | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 2-Methyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine hydrochloride | 2.03 mmol, 0.41 g | Cl.CC=1SC2=C(CCNCC2)N1
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-methyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(=N1)C | C15H14ClN5OS
